US06265418B1
Benzyl 4,5,6,7-tetrahydropyrrolo[3,2-c]pyridin-2-acetate.
In 5 ml of methylene chloride was dissolved 0.11 g (0.20 mmol) of benzyl 1-t-butoxycarbonyl-5-t-butoxycarbonyl-4,5,6,7-tetrahydropyrrolo [3,2-c]pyridin-2-acetate, and under ice-cooling, 1 ml of CF3CO2H was added to the solution and the resulting mixture was stirred at room temperature for one hour.

reactant | benzyl 1-t-butoxycarbonyl-5-t-butoxycarbonyl-4,5,6,7-tetrahydropyrrolo [3,2-c]pyridin-2-acetate | 0.20 mmol, 0.11 g | C(C)(C)(C)OC(=O)N1C(=CC=2CN(CCC21)C(=O)OC(C)(C)C)CC(=O)OCC2=CC=CC=C2 | C26H34N2O6
reactant | CF3CO2H | 1 ml | C(F)(F)(F)C(=O)O | C2HF3O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Benzyl 4,5,6,7-tetrahydropyrrolo[3,2-c]pyridin-2-acetate | N1C(=CC=2CNCCC21)CC(=O)OCC2=CC=CC=C2 | C16H18N2O2
